US06255494B1
Preparation of 1-[3-(ethoxycarbonyl)butyl]-2-[(4-chlorophenoxy)methyl]-4-methylbenzimidazole
A sodium hydride solution (60% in oil, 810 mg, 20.3 mmol) was washed with hexanes (2×50 ml) and then diluted with N,N-dimethylformamide (100 ml). At room temperature, under a nitrogen atmosphere, 2-[(4-chlorophenoxy)methyl]-4-methylbenzimidazole (5 g, 18.3 mmol) was then added in one portion. The resulting mixture was then stirred at room temperature for thirty minutes, and then 3-(ethoxycarbonyl)butyl bromide (4.25 g, 20.3 mmol) in N,N-dimethylformamide (10 ml) was added dropwise. Upon completion of this addition, the reaction mixture was stirred for about six hours at a temperature of 70-80° C. The reaction mixture was then cooled to room temperature, poured into water (500 ml), and then extracted with ethyl acetate (500 ml). The organic fraction was washed once with water (500 ml) and then dried over potassium carbonate. The solvents were removed in vacuo, yielding 8.01 grams of a dark oil. The crude material was further purified by flash silica gel chromatography, eluting with a gradient solvent of methylene chloride to 3:1 methylene chloride:ethyl acetate. The fractions containing the desired title product were combined and concentrated in vacuo to yield 7.21 grams (98%) of a viscous yellow oil.

reactant | sodium hydride | 20.3 mmol, 810 mg | [H-].[Na+]
reactant | 2-[(4-chlorophenoxy)methyl]-4-methylbenzimidazole | 18.3 mmol, 5 g | ClC1=CC=C(OCC=2NC3=C(N2)C=CC=C3C)C=C1 | C15H13ClN2O
reactant | 3-(ethoxycarbonyl)butyl bromide | 20.3 mmol, 4.25 g | C(C)OC(=O)C(CCBr)C | C7H13BrO2
reactant | water | 500 ml | O | H2O
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-[3-(ethoxycarbonyl)butyl]-2-[(4-chlorophenoxy)methyl]-4-methylbenzimidazole | 8.01 grams | C(C)OC(=O)C(CCN1C(=NC2=C1C=CC=C2C)COC2=CC=C(C=C2)Cl)C | C22H25ClN2O3
